US08497278B2
2-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-1H-indazol-3(2H)-one (118)
The title compound was prepared according to Method B and the experimentals described for compound 91 from 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride and 1H-indazol-3(2H)-one. M/e+ 375 for C21H16ClN4O (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 11.11 (bs, 1H), 8.16 (d, J=6.9 Hz, 1H), 8.01 (d, J=7.7 Hz, 1H), 7.64 (m, 1H), 7.55 (d, J=8.4 Hz, 2H), 7.50 (d, J=8.4 Hz, 1H), 7.30 (t, J=7.3 Hz, 1H), 7.15 (d, J=8.4 Hz, 2H), 6.75 (t, J=7.7 Hz, 1H), 6.60 (t, J=7.7 Hz, 1H), 6.27 (d, J=8.4 Hz, 1H), 5.34 (s, 2H) ppm.

reactant | 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl
reactant | 1H-indazol-3(2H)-one | N1NC(C2=CC=CC=C12)=O | C7H6N2O
product | 2-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-1H-indazol-3(2H)-one | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CN1NC2=CC=CC=C2C1=O | C21H15ClN4O
